US05654299
h. 1-Benzyloxycarbonyl-4-(3-pyridyl)-1,2,3,4-tetrahydropyridine
A solution of 1-benzyloxycarbonyl-1,2,3,4-tetrahydropyridine (8.69 g) in dimethylsulfoxide (50 mL) was treated with 3-bromopyridine (6.32 g), triethylamine (5.6 mL) and palladium(II) acetate (0.499 g). The reaction mixture was heated to 100° C. for 16 hours, cooled to the room temperature, diluted with water, and extracted with ether. The organic layer was washed with water; the combined organic layers were dried and evaporated to produce the crude product. This material was distilled under reduced pressure and the volatile material distilling at 120° C. (66.7 Pa) was removed. The remaining residue was chromatographed, with hexane:ethyl acetate (1:1) as eluent, to afford the coupled product (0.714 g); NMR (CDCl3): 1.7 (broad s, 2), 2.16 (broad m, 1), 3.5-3.7 (m, 2), 4.9-5.1 (d of m, 2), 5.2 (m, 2), 7.0-7.5 (m, 8), 8.5 (m, 2); MS: m/z=295(M+1).

reactant | 1-benzyloxycarbonyl-1,2,3,4-tetrahydropyridine | 8.69 g | C(C1=CC=CC=C1)OC(=O)N1CCCC=C1 | C13H15NO2
reactant | 3-bromopyridine | 6.32 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | palladium(II) acetate | 0.499 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Benzyloxycarbonyl-4-(3-pyridyl)-1,2,3,4-tetrahydropyridine | 0.714 g | C(C1=CC=CC=C1)OC(=O)N1CCC(C=C1)C=1C=NC=CC1 | C18H18N2O2
